US04084061
In accordance with the process of Example 1, 12.7 g of p-chlorotoluene were contacted and reacted with 5.4 g of sodium dispersed in 50 ml of cyclohexane at 20° C to 30° C and then the reaction mixture was heated to 80° C for 5 hours to rearrange the product. The reaction mixture was cooled to 20° C to 23° C and was gradually poured onto 10 g of solid carbon dioxide with stirring to effect the carbonylation reaction. After the reaction with carbon dioxide, the post-treatment procedure was conducted in accordance with the process of Example 1 to whereby 12.8 g of phenylacetic acid (yield 94.1%) were obtained.

reactant | p-chlorotoluene | 12.7 g | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | sodium | 5.4 g | [Na] | Na
reactant | carbon dioxide | C(=O)=O | CO2
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
product | phenylacetic acid | 12.8 g, yield 94.1% | C1(=CC=CC=C1)CC(=O)O | C8H8O2
